US08048909B2
1-[4,5-Diphenyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine
4,5-Diphenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde (202 mg) was dissolved in methanol (2 mL) and tetrahydrofuran (2 mL), 40% methylamine methanol solution (0.5 mL) was added at room temperature, and the mixture was stirred for 15 min. To the reaction mixture was added sodium borohydride (22 mg) at room temperature, and the mixture stirred for 1 hr. The reaction mixture was concentrated under reduced pressure, to the residue was added saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogencarbonate solution, water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: ethyl acetate) to give the title compound as white crystals (yield 181 mg, 87%).

reactant | 4,5-Diphenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | 202 mg | C1(=CC=CC=C1)C=1C(=CN(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C=O | C23H17NO3S
reactant | methylamine methanol | 0.5 mL | CO.CN
reactant | sodium borohydride | 22 mg | [BH4-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-[4,5-Diphenyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine | yield 181 mg, 87% | C1(=CC=CC=C1)C=1C(=CN(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)CNC | C24H22N2O2S
